US06713602B1
N-(N-tert-Butyloxycarbonyl-aminomethyl)-N-(N1-thyminylacetyl)-β-alanine Ethylester
A solution of [bis(trifluoroacetoxy)iodo]benzene (16.71 g., 38.8 mmol) in CH3CN (55 mL) was added dropwise within 10 minutes to a stirred solution of N-(carbamoylmethyl)-N-(thymin-1-ylacetyl)-β-alanine ethyl ester (11.5 g, 33.8 mmol) in CH3CN/H2O (275 mL, 2:3 v/v). After 20 hours at room temperature the volume was reduced to about 50 mL under reduced pressure (1 Torr, 30° C.) and the solution was extracted with diethyl ether (150 mL). The aqueous phase was evaporated to dryness in vacuo (1 Torr, 30° C.). The remaining solid was rinsed with diethyl ether (20 mL) and dried in vacuo. 1,4-Dioxane (150 mL), K2CO3 (12.2 g) and a solution of di-tert-butyl dicarbonate (8.4 g, 38.5 mmol) in 1,4-dioxane (50 mL) were added. After stirring for 1 hour at room temperature the reaction mixture was filtered and the solvent was removed under reduced pressure. The resulting residue was purified by silica gel flash column chromatography using hexane/acetone 1:1, v/v and subsequent precipitation from MeOH (60 mL) by addition of hexane (300 mL) gave 8.6 g (64%) of the title compound, mp 174-175° C. TLC (MeOH, det. UV, ninhydrin): Rf N-(Carbamoylmethyl)-N-(thymin-1-ylacetyl)-β-alanine ethyl ester=0.73, Rf(title compound)=0.85. 1H NMR (DMSO-d6)(*=major rotamer) δ1.17 (t, J=7 Hz, 3H, CH2CH3), 1.38, 1.42* (2s, 9H, t-Bu), 1.75 (s, 3H, T-CH3), 2.50*, 2.72 (2t, J=7.9 Hz, 2H, NCH2CH2), 3.31*, 3.50 (2t, 2H, NCH2CH2), 4.05*, 4.08 (2q, 2H, OCH2), 4.58, 4.61* (2d, 2H, CH2), 4.61 (overlap.), 4.74* (s, 2H, CH2), 7.26*, 7.35 (2s, 1H, CH), 7.4, 7.8 (2m, 1H, NH), 11.25 (s, 1H, NH) ppm. 13C NMR (major rotamer) (DMSO-d6) δ11.9 (T, CH3), 14.1 (CH2CH3), 28.0 (tBu-CH3), 32.2 (CH2CO), 41.4 (NCH2CH2), 48.1 (T(N1)CH2), 53.1 (NCH2N), 60.0 (OCH2), 78.8 (C(CH3)3) 108.2 (T, CCH3), 142.0 (CH), 151.1(T, NC(O)N), 155.7 (carbamate C═O), 164.4 (T, C═O), 167.0 (tert. amide C═O), 171.1 (ester C═O) ppm.FAB-MS: m/z=413.20 (M+H)+. Anal. Calcd. for C18H28N4O7 (412.44) C, 52.42; H, 6.84; N, 13.58. found C, 52.37; H, 6.68; N, 13.57.

reactant | [bis(trifluoroacetoxy)iodo]benzene | 38.8 mmol, 16.71 g | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | N-(carbamoylmethyl)-N-(thymin-1-ylacetyl)-β-alanine ethyl ester | 33.8 mmol, 11.5 g | C(C)OC(CCN(C(CN1C(=O)NC(=O)C(C)=C1)=O)CC(N)=O)=O | C14H20N4O6
reactant | K2CO3 | 12.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | di-tert-butyl dicarbonate | 38.5 mmol, 8.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | CH3CN | 55 mL | CC#N | C2H3N
solvent | CH3CN H2O | 275 mL | CC#N.O
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-Dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | N-(N-tert-Butyloxycarbonyl-aminomethyl)-N-(N1-thyminylacetyl)-β-alanine Ethylester | 8.6 g, 64% | C(C)OC(CCN(C(CN1C(=O)NC(=O)C(C)=C1)=O)CNC(=O)OC(C)(C)C)=O | C18H28N4O7
